US05378679
6-[(1,1-Dimethylpropinyl-)aminocarbonyl-]-7-hydroxy-thieno[3,2-b]pyridin-5 (4H) -one (No. 3.012 in Table 3)
3.1 g (13 mmol) of 6-ethoxycarbonyl-7-hydroxy-thieno[3,2-b]pyridin-5(4H)-one and 1.3 g (1.2 eq.) of 1,1-dimethylpropargylamine in 80 ml of EtOH were stirred for 8 hours at 150° C. in an autoclave. The solvent was removed under reduced pressure and the solid residue was stirred with diethyl ether. The solid was filtered off and purified chromatographically (silica gel, methylene chloride/methanol =8/1).

reactant | 6-ethoxycarbonyl-7-hydroxy-thieno[3,2-b]pyridin-5(4H)-one | 13 mmol, 3.1 g | C(C)OC(=O)C1=C(C2=C(NC1=O)C=CS2)O | C10H9NO4S
reactant | 1,1-dimethylpropargylamine | 1.3 g, 1.2 eq. | CC(C)(C#C)N | C5H9N
solvent | EtOH | 80 ml | CCO | C2H6O
product | 6-[(1,1-Dimethylpropinyl-)aminocarbonyl-]-7-hydroxy-thieno[3,2-b]pyridin-5 (4H) -one | CC(C#C)(C)NC(=O)C1=C(C2=C(NC1=O)C=CS2)O | C13H12N2O3S
